* Z:\mnt\design.r\spice\examples\1110-5.asc
V1 IN 0 1.5
C2 OUT 0 15µ
D1 N001 OUT MBRS140
L1 IN N001 47µ
XU1 IN IN N001 0 0 MP_01 MP_02 OUT LT1110 top=300K bot=13.8K
Rload OUT 0 300
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1110.sub
.backanno
.end
